US04371720
Cycloheptan-1,3-dione
To a 10°-20° C. solution of 20 g. (0.156 mole) of 3-hydroxycycloheptanone in 700 ml. of acetone was slowly added 54.9 ml. of 2.67 M Jone's reagent (0.146 mole). The mixture was stirred 15 minutes and then quenched by addition of 12 ml. of isopropanol. The reaction was filtered through diatomaceous earth and the filtrate concentrated on a rotovapor to about 100 ml. The residue was diluted with 300 ml. of saturated sodium chloride and then extracted with six 250 ml. portions of ether. The combined organic extract was washed with two 100 ml. portions of saturated sodium bicarbonate, dried over magnesium sulfate and evaporated under reduced pressure (aspirator) to yield an oil. Distillation of the crude oil gave 11.5 g. (58%) of the title compound as an oil.

reactant | 3-hydroxycycloheptanone | 0.156 mole | OC1CC(CCCC1)=O | C7H12O2
solvent | acetone | CC(=O)C | C3H6O
product | Cycloheptan-1,3-dione | 58% | C1(CC(CCCC1)=O)=O | C7H10O2
